US09382188B2
step 3) 2′-fluoro-5′-methoxy-2-(2,2,6,6-tetramethyltetrahydro-2H-pyran-4-yl)biphenyl-4-ol
To a solution of 2′-fluoro-5′-methoxy-2-(2,2,6,6-tetramethyl-3,6-dihydro-2H-pyran-4-yl)biphenyl-4-ol (124 mg) in methanol (3 mL) was added 20% palladium hydroxide (28 mg) and, under a hydrogen atmosphere, the mixture was stirred at 60° C. for 3 hr. The reaction mixture was filtered, and the solvent of the filtrate was evaporated under reduced pressure to give a crude product of the title compound as a colorless oil. This compound was used for the next step without further purification.

reactant | 2′-fluoro-5′-methoxy-2-(2,2,6,6-tetramethyl-3,6-dihydro-2H-pyran-4-yl)biphenyl-4-ol | 124 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)C=1CC(OC(C1)(C)C)(C)C | C22H25FO3
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium hydroxide | 28 mg | [OH-].[Pd+2].[OH-]
product | 2′-fluoro-5′-methoxy-2-(2,2,6,6-tetramethyltetrahydro-2H-pyran-4-yl)biphenyl-4-ol | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)C1CC(OC(C1)(C)C)(C)C | C22H27FO3
